US04950759
1.5 g (7.5 mmol) of 2-acetyl-7,8-dihydro-6H-pyrazolo[4,5,1-ij]quinoline together with 0.45 g (15 mmol) of paraformaldehyde and 1.35 g (16 mmol) of dimethylammonium chloride in 50 ml of acetic acid was stirred for 2 hours at 100° C. The mixture was evaporated in vacuum, and the residue was shaken with a mixture of methylene chloride and sodium hydroxide solution. The organic layer was washed with saline and evaporated in vacuum. The residue was chromatographed over silicagel using methylene chloride/methanol/ammonia (92.5/7/0.5) as an eluent. The desired fractions were evaporated in vacuum, and the residue was dissolved in alcoholic hydrochloric acid. 0.76 g (35%) of 1-(7,8-dihydro-6H-pyrazolo[4,5,1-ij]quinoline-2-yl)-3-(N,N-dimethylamino)-propan-1-one hydrochloride were obtained after evaporating in vacuum. This product (0.76 g, 2.6 mmol) was boiled for 18 hours together with 1 g (12 mmol) of 2-methyl-imidazole in a mixture of 20 ml of water and 5 ml of propanol-1. The mixture was diluted with 2N sodium hydroxide and extracted with methylene chloride. The organic layer was separated and evaporated in vacuum. The residue was chromatographed over silicagel using methylene chloride/methanol/ammonia (92.5/7/0.5) as an eluent. 0.5 g (69%) of the desired product were obtained; melting point 133°-134° C. 13C NMR (CDCl3, Ref.: TMS):

reactant | 2-acetyl-7,8-dihydro-6H-pyrazolo[4,5,1-ij]quinoline | 7.5 mmol, 1.5 g | C(C)(=O)C1=NN2CCCC3=CC=CC1=C23 | C12H12N2O
reactant | paraformaldehyde | 15 mmol, 0.45 g | C=O | CH2O
reactant | dimethylammonium chloride | 16 mmol, 1.35 g | [Cl-].C[NH2+]C
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-(7,8-dihydro-6H-pyrazolo[4,5,1-ij]quinoline-2-yl)-3-(N,N-dimethylamino)-propan-1-one hydrochloride | 0.76 g, 35% | Cl.N1=C(C=2C=CC=C3CCCN1C23)C(CCN(C)C)=O | InChI=1S/C15H19N3O.ClH/c1-17(2)10-8-13(19)14-12-7-3-5-11-6-4-9-18(16-14)15(11)12;/h3,5,7H,4,6,8-10H2,1-2H3;1H
